US04409215
To a solution of benzhydryl 7-(2-phenylacetamido)-3-methylthiomethyl-3-cephem-4-carboxylate-1-oxide (15.1 g) in methylene chloride (150 ml) was added 2-methyl-2-butene (5.7 ml), followed by adding dropwise acetyl bromide (5.2 ml) under ice-cooling and stirring for half an hour. After addition of water, the mixture was adjusted to pH about 5 with an aqueous solution of sodium bicarbonate, washed three times with an aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and then evaporated under reduced pressure to give benzhydryl 7-[2-phenylacetamido]-3-methylthiomethyl-3-cephem-4-carboxylate (13.5 g).

reactant | benzhydryl 7-(2-phenylacetamido)-3-methylthiomethyl-3-cephem-4-carboxylate-1-oxide | 15.1 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2=O)CSC)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C30H28N2O5S2
reactant | 2-methyl-2-butene | 5.7 ml | CC(C)=CC | C5H10
reactant | acetyl bromide | 5.2 ml | C(C)(=O)Br | C2H3BrO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | benzhydryl 7-[2-phenylacetamido]-3-methylthiomethyl-3-cephem-4-carboxylate | 13.5 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)CSC)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C30H28N2O4S2
